US09399647B2
The ethyl 2-amino-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylate (8.0 g, 0.0355 mol) and ethyl-2-cyanoacetate (8.03 g, 0.0710 mol) was dissolved in dioxane (250 ml). It was cooled to 0° C. To this reaction mixture, HCl gas was purged up to saturation (for 20 min, initially reaction mass becomes turbid and then becomes clears). Then reaction mass was stirred for 18 h at room temperature. After completion of the reaction it was cooled to 0° C. and basified with saturated NaHCO3 (pH=8). Further it was extracted with ethyl acetate (250 ml×3). Combined organic extracts were washed with water followed with brine. Separated organic layer was dried over anhy. Na2SO4, filtered and concentrated to get 9 g crude product. It was purified by column chromatography by using 100-200 mesh silica gel and 1-2% MeOH: DCM solvent system to give ethyl 2-(4-hydroxy-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-yl)acetate as yellow solid. Yield—(9.0 g, 86.71%); 1H-NMR: (400 MHz, CDCl3); δ=4.25-4.20 (q, 2H), 3.77 (s, 2H), 3.00-2.97 (m, 2H), 2.76-2.74 (m, 2H), 1.88-1.81 (m, 4H), 1.29-1.25 (t, 3H); LC-MS [M+H]=292.9.

reactant | ethyl 2-amino-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylate | 0.0355 mol, 8.0 g | NC1=C(C2=C(S1)CCCC2)C(=O)OCC | C11H15NO2S
reactant | ethyl-2-cyanoacetate | 0.0710 mol, 8.03 g | C(C)OC(CC#N)=O | C5H7NO2
reactant | NaHCO3 | pH=8 | C(=O)(O)[O-].[Na+]
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | ethyl 2-(4-hydroxy-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-yl)acetate | OC=1C2=C(N=C(N1)CC(=O)OCC)SC1=C2CCCC1 | C14H16N2O3S
